US07335658B2
6-[4-(3,3,3-TRIFLUORO-2-METHYL-2-TRIFLUOROMETHYLPROPIONYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE
Following the procedure of Example 3, making variations only as required to use (3,3,3-trifluoro-2-methyl-2-trifluoromethylpropionyl chloride in place of isoxazole-5-carbonyl chloride to react with 6-piperazin-1-yl-pyridazine-3-carboxylic acid (2-cyclopropylethyl)amide, the title compound was obtained as a white solid (35% yield). 1H NMR (300 MHz, CDCl3) δ 8.02, 7.96, 6.80, 3.91-3.75, 3.58, 1.58-1.48, 0.78-0.63, 0.48-0.43, 0.11-0.04. MS (ES+) m/z 468.2 (M+1).

reactant | 3,3,3-trifluoro-2-methyl-2-trifluoromethylpropionyl chloride | FC(C(C(=O)Cl)(C(F)(F)F)C)(F)F | C5H3ClF6O
reactant | 6-piperazin-1-yl-pyridazine-3-carboxylic acid (2-cyclopropylethyl)amide | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCNCC1 | C14H21N5O
product | 6-[4-(3,3,3-TRIFLUORO-2-METHYL-2-TRIFLUOROMETHYLPROPIONYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(C(C(F)(F)F)(C(F)(F)F)C)=O | C19H23F6N5O2
